US07732504B2
2.2: 2-[(4-Aminophenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone
7.0 g Palladium on charcoal (5%) are added to solution of 69.5 g (0.178 mol) 2-[(4-nitro-phenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone in 700 ml ethanol in an hydrogenation autoclave. Hydrogen is entered with a continuous increase of pressure to 5 bar at temperature between room temperature and 40° C. After 25 hours no further hydrogen uptake is observed. The catalyst is filtered off and the crude product obtained as yellowish oil after evaporation of the solvent. Thin film chromatography shows a main product and some minor by-products. The crude material is used without further purification in the next reaction step.

reactant | 2-[(4-nitro-phenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone | 0.178 mol, 69.5 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(C(=O)C1=CC=C(C=C1)F)(CC)N(C)C | C19H21FN2O3
reactant | Hydrogen | [H][H] | H2
catalyst | Palladium on charcoal | 7.0 g | [Pd] | Pd
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 2-[(4-Aminophenyl)methyl]-1-(4-fluorophenyl)-2-dimethylamino-1-butanone | NC1=CC=C(C=C1)CC(C(=O)C1=CC=C(C=C1)F)(CC)N(C)C | C19H23FN2O
